US06372770B1
(b) 2-[4-Hydroxy-3,5-di-t-butyl-benzyl]-benzoxazole
A sample of N-[4-hydroxy-3,5-di-t-butyl-phenyl-acetyl]-2-hydroxyaniline (12.0 g, 0.033 mol) was heated at 260° under nitrogen for 50 minutes. After cooling, the material was heated at reflux with hexane (50 ml) until most of the sample was dissolved. The mixture was filtered while hot and allowed to cool. Filtration afforded 5.4 g (49%) of nearly pure title compound. Pure title compound was obtained after two further crystallizations (with charcoal) from hexane, mp 94-96° C.

reactant | N-[4-hydroxy-3,5-di-t-butyl-phenyl-acetyl]-2-hydroxyaniline | 0.033 mol, 12.0 g | OC1=C(C=C(C=C1C(C)(C)C)CC(=O)NC1=C(C=CC=C1)O)C(C)(C)C | C22H29NO3
solvent | hexane | 50 ml | CCCCCC | C6H14
product | 2-[4-Hydroxy-3,5-di-t-butyl-benzyl]-benzoxazole | OC1=C(C=C(CC=2OC3=C(N2)C=CC=C3)C=C1C(C)(C)C)C(C)(C)C | C22H27NO2
